US04337256
(a-1-1) A mixture of 26 g of 1-cyano-2-benzoyl-1,2-dihydroisoquinoline [Org. Synth. Coll. vol. 4, 641 (1963)] and 1 g of benzyl triethyl ammonium chloride was dissolved in 50 ml of isopropyl bromide. Then, 80 g of a 50% aqueous solution of sodium hydroxide was added, and the mixture was stirred at room temperature for 30 minutes. The product was extracted with benzene. The solvent was distilled off, and the residue was recrystallized from ethanol to afford 20 g of 1-cyano-1-isopropyl-2-benzoyl-1,2-dihydroisoquinoline as colorless scales having a melting point of 123.8° to 126.0° C.

reactant | 1-cyano-2-benzoyl-1,2-dihydroisoquinoline | 26 g | C(#N)C1N(C=CC2=CC=CC=C12)C(C1=CC=CC=C1)=O | C17H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | isopropyl bromide | 50 ml | C(C)(C)Br | C3H7Br
catalyst | benzyl triethyl ammonium chloride | 1 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-cyano-1-isopropyl-2-benzoyl-1,2-dihydroisoquinoline | 20 g | C(#N)C1(N(C=CC2=CC=CC=C12)C(C1=CC=CC=C1)=O)C(C)C | C20H18N2O
